### PR TITLE
Add support for function declaration statements

### PR DESCRIPTION
**Pull request by MikaelMayer**
Add support for function declarations within statement blocks

This PR adds the ability to declare functions as a statement `Stmt.funcDecl` in Strata Core, enabling local function definitions within procedures.

## Changes
- Added `Stmt.funcDecl` for declaring functions within statement blocks
- Implemented statement-level operations (variable analysis, substitution, type erasure) for funcDecl
- Added type checking that converts between PureFunc and Function representations
- Extended all program transformations to handle funcDecl

## Semantics
- Refactored semantics to thread the evaluator `δ` (SemanticEval) as state through `EvalStmt` and `EvalBlock`
- When a function is declared, the evaluator is extended with the new function definition
- Closure capture semantics: free variables from the enclosing scope are captured by value (lexical scoping)
- Updated `EvalCmdParam` signature to include `δ'` output parameter for evaluator changes
- Updated transformation correctness proofs to work with the new evaluator threading

## Testing
Added tests demonstrating funcDecl functionality including polymorphic functions with type parameters. Existing tests pass.

### CODE REVIEW

File: Strata/DL/Lambda/Factory.lean [hunk 1]
```diff
@@ -85,44 +89,74 @@ concrete/constants, this fails and it returns .none.
...
+    ∀ fn md args res, f.concreteEval = .some fn
+      → fn md args = .some res
+      → args.length = f.inputs.length
+
+/--
+Well-formedness properties of LFunc - extends FuncWF with Lambda-specific properties.
+-/
+structure LFuncWF {T : LExprParams} (f : LFunc T) extends FuncWF f where
   -- Free variables of body must be arguments.
   body_freevars:
```
Comment (joscoh) [inline Strata/DL/Lambda/Factory.lean]: Why doesn't this hold for general `Func`? Is it because there is no generic notion of "variable in an expression"?

File: Strata/DL/Lambda/Factory.lean [hunk 2]
```diff
@@ -151,24 +185,36 @@ instance LFuncWF.body_freevars_decidable {T : LExprParams} (f : LFunc T):
   | .none => by
     apply isTrue; grind
 
--- LFuncWF.concreteEval_argmatch is not decidable.
+-- FuncWF.concreteEval_argmatch and LFuncWF.concreteEval_argmatch are not decidable.-- FuncWF.body_freevars is commented out as it's expression-type specific
+-- FuncWF.concreteEval_argmatch is not decidable.
```
Comment (joscoh) [inline Strata/DL/Lambda/Factory.lean]: Repeated comment. Also, Why would `FuncWF.body_freevars` be commented out?

File: Strata/Languages/Core/StatementEval.lean [hunk 3]
```diff
@@ -400,6 +400,34 @@ def evalAuxGo (steps : Nat) (old_var_subst : SubstMap) (Ewn : EnvWithNext) (ss :
...
 
+          | .funcDecl decl _ =>
+            -- Add function to factory with value capture semantics
+            -- Substitute current values of free variables into function body
+            let func : Lambda.LFunc CoreLParams := {
+              name := decl.name,
+              typeArgs := decl.typeArgs,
+              isConstr := decl.isConstr,
+              inputs := decl.inputs.map (fun (id, ty) => (id, Lambda.LTy.toMonoTypeUnsafe ty)),
+              output := Lambda.LTy.toMonoTypeUnsafe decl.output,
```
Comment (joscoh) [inline Strata/Languages/Core/StatementEval.lean:431]: Does the `unsafe` cause any problems with polymorphism?

File: Strata/Languages/Core/StatementType.lean [hunk 4]
```diff
@@ -165,6 +166,37 @@ where
...
+            isConstr := decl.isConstr,
+            inputs := decl.inputs.map (fun (id, ty) => (id, Lambda.LTy.toMonoTypeUnsafe ty)),
+            output := Lambda.LTy.toMonoTypeUnsafe decl.output,
+            body := decl.body,
+            attr := decl.attr,
+            concreteEval := none,  -- Can't convert concreteEval safely
+            axioms := decl.axioms
+          }
+          let (func', Env) ← Function.typeCheck C Env func |>.mapError DiagnosticModel.fromFormat
+          -- Convert back by wrapping monotypes in trivial polytypes
```
Comment (joscoh) [inline Strata/Languages/Core/StatementType.lean]: Again, what happens to polymorphic functions?

File: StrataTest/Languages/Core/StatementEvalTests.lean
Comment (joscoh) [inline StrataTest/Languages/Core/StatementEvalTests.lean:1]: I would like to see a test with a polymorphic function decl, followed by using one (or even better, multiple) concrete instantiations of this function. For example, something like:
```
function toInt (x: a) : int { 1 }
assert (toInt(3) == toInt(true));
```
Just to make sure there are no type variables captured.

File: Strata/DL/Lambda/Factory.lean (hunk 1 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/Factory.lean]: Good call. I figured out thanks to your comment that we could make this generic notion available so that we don't need to extend FuncWF and put everything in FuncWF.

File: Strata/DL/Lambda/Factory.lean (hunk 2 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/Factory.lean]: That comment was obsolete. Removed

File: Strata/Languages/Core/StatementEval.lean (hunk 3 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementEval.lean:431]: It should hopefully not. Will add a test

File: Strata/Languages/Core/StatementType.lean (hunk 4 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementType.lean]: I'm adding a test to demonstrate polymorphism. It will also verify that the function's body is correctly expanded in the partial evaluator

**Comment by MikaelMayer** [comment]
I updated `StmtSemanticsSmallStep.lean` to support function declaration semantics. Because functions are closures, I had to add support for a generic free variable replacement so that it works for any `Func` , not just `LFunc`

File: Strata/DL/Imperative/CmdSemantics.lean [hunk 5]
```diff
@@ -27,6 +27,45 @@ abbrev SemanticStore := P.Ident → Option P.Expr
...
+  let axiomFreeVars := decl.axioms.flatMap (fun ax =>
+    (HasVarsPure.getVars ax).filter (· ∉ paramNames))
+  -- Combine and deduplicate
+  let allFreeVars := (bodyFreeVars ++ axiomFreeVars).eraseDups
+  -- Build substitutions from the store
+  let substs := buildSubstitutions P σ allFreeVars
+  -- Apply substitutions to body and axioms
+  { decl with
+    body := decl.body.map (fun b => HasSubstFvar.substFvars b substs)
+    axioms := decl.axioms.map (fun ax => HasSubstFvar.substFvars ax substs) }
```
Comment (shigoel) [inline Strata/DL/Imperative/CmdSemantics.lean]: @aqjune-aws @joscoh Just checking: are we still keeping the `axioms` field in `Func` (formerly `LFunc`)? How will that affect this PR?

Comment (joscoh) [reply Strata/DL/Imperative/CmdSemantics.lean]: I would be in favor of removing it, but I'm not sure what the `axioms` field is used for currently.

File: Strata/DL/Imperative/StmtSemanticsSmallStep.lean [hunk 6]
```diff
@@ -22,14 +22,15 @@ Configuration for small-step semantics, representing the current execution
 state. A configuration consists of:
 - The current statement (or list of statements) being executed
 - The current store
+- The current function context
```
Comment (joscoh) [inline Strata/DL/Imperative/StmtSemanticsSmallStep.lean]: Where is the `FuncContext` used? Unless I am missing something, I don't see any lookups into it.

Comment (MikaelMayer) [reply Strata/DL/Imperative/StmtSemanticsSmallStep.lean]:
```
  | funcDecl_sem [HasSubstFvar P] [HasVarsPure P P.Expr] :
    EvalStmt P Cmd EvalCmd δ σ φ (.funcDecl decl md) σ
      (fun id => if id == decl.name then some (closureCapture P σ decl) else φ id)
```
is where it's written to, but you're right I got side tracked by the evaluator and forgot to connect the semantics. Let me fix that.

File: Strata/DL/Imperative/CmdSemantics.lean (hunk 5 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/CmdSemantics.lean]: Happy to remove it if you prefer.

Comment (shigoel) [reply Strata/DL/Imperative/CmdSemantics.lean]: Removal of `axioms` may be out of scope for this PR. I just asked to make sure that @MikaelMayer isn't inadvertently relying on them too much.

File: Strata/DL/Imperative/PureExpr.lean [hunk 7]
```diff
@@ -21,6 +21,8 @@ structure PureExpr : Type 1 where
   Expr    : Type
   /-- Types -/
   Ty      : Type
+  /-- Expression metadata type (for use in function declarations, etc.) -/
+  ExprMetadata : Type
```
Comment (shigoel) [inline Strata/DL/Imperative/PureExpr.lean:27]: Interesting. I haven't made my way through the rest of this PR, so perhaps a premature: `ExprMetadata` can even have `Expr` in it now.

File: Strata/DL/Imperative/Stmt.lean [hunk 8]
```diff
@@ -159,6 +166,11 @@ def Stmt.getVars [HasVarsPure P P.Expr] [HasVarsPure P C] (s : Stmt P C) : List
   | .ite _ tbss ebss _ => Block.getVars tbss ++ Block.getVars ebss
   | .loop _ _ _ bss _ => Block.getVars bss
   | .goto _ _  => []
+  | .funcDecl decl _ =>
+    -- Get variables from function body (including parameters for simplicity)
```
Comment (shigoel) [inline Strata/DL/Imperative/Stmt.lean]: Just checking: for a well-formed function, these should be the same as the formals, right?

File: StrataTest/Languages/Core/StatementEvalTests.lean [hunk 9]
```diff
@@ -377,6 +377,199 @@ Proof Obligation:
 #guard_msgs in
 #eval (evalOne ∅ ∅ prog2) |>.snd |> format
 
+/--
+Test funcDecl: declare a helper function and use it
+-/
+def testFuncDecl : List Statement :=
```
Comment (shigoel) [inline StrataTest/Languages/Core/StatementEvalTests.lean:384]: This PR doesn't add DDM support for function decl. statements, right? (Ok if it is out of scope). 

A comment that serves as a reminder: when we do have DDM support, let's add some examples in StrataTest/Languages/Core/Examples.

File: Strata/Languages/Core/Statement.lean [hunk 10]
```diff
@@ -373,6 +391,10 @@ def Statement.renameLhs (s : Core.Statement)
       if l.name == fr  then to else l)) pname args metadata
   | .block lbl b metadata =>
     .block lbl (Block.renameLhs b fr to) metadata
+  | .funcDecl decl md =>
```
Comment (shigoel) [inline Strata/Languages/Core/Statement.lean:402]: I don't quite know where this `renameLhs` function is used -- I think this is duplicated with the one in ProcedureInlining.lean. Same comment applies to both: if we change the name of the function at the statement level, are we also changing all calls to it (at the expression level)?

File: Strata/Languages/Core/StatementEval.lean [hunk 11]
```diff
@@ -400,6 +400,34 @@ def evalAuxGo (steps : Nat) (old_var_subst : SubstMap) (Ewn : EnvWithNext) (ss :
                     Please transform your program to eliminate loops before \
                     calling Core.Statement.evalAux"
 
+          | .funcDecl decl _ =>
```
Comment (shigoel) [inline Strata/Languages/Core/StatementEval.lean:423]: Let's refactor this into a helper function to make the statement eval. function a little less long. Also, can some of this be shared with top-level function eval. in ProgramEval.lean?

File: Strata/Languages/Core/StatementType.lean [hunk 12]
```diff
@@ -165,6 +166,37 @@ where
             -- Add source location to error messages.
             .error (errorWithSourceLoc e md)
 
+        | .funcDecl decl md => do try
```
Comment (shigoel) [inline Strata/Languages/Core/StatementType.lean:169]: Same comment as before: any overlap with type checking for top-level functions in ProgramType.lean?

File: Strata/DL/Lambda/Factory.lean [hunk 13]
```diff
@@ -10,6 +10,8 @@ import Strata.DDM.AST
 import Strata.DDM.Util.Array
 import Strata.DL.Util.List
 import Strata.DL.Util.ListMap
+import Strata.DL.Imperative.PureExpr
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean]: I'd like to not import `Imperative` inside `Lambda` (and vice versa). After all, they're meant to be independent semantic building blocks.

File: Strata/DL/Imperative/PureExpr.lean (hunk 7 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/PureExpr.lean:27]: That's possible indeed, depends on what the metadata is.

File: Strata/DL/Imperative/Stmt.lean (hunk 8 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/Stmt.lean]: Actually, this is the opposite. It's the variables that the body accesses minus the formals; I'm going to fix that.

File: StrataTest/Languages/Core/StatementEvalTests.lean (hunk 9 above)
Comment (MikaelMayer) [reply StrataTest/Languages/Core/StatementEvalTests.lean:384]: I'm working on DDM support in another stacked PR already.

File: Strata/Languages/Core/Statement.lean (hunk 10 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/Statement.lean:402]: I removed the duplication. `ProcedureInlining.lean` now uses the canonical versions from `Statement.lean`.

Regarding subsequent statements: Yes, they are updated. In `renameAllLocalNames`, the renaming is applied to all statements in the procedure body via `List.map`. Each statement gets both `substFvar` (which updates expression-level references like function calls) and `renameLhs` (which updates declaration sites). So if funcDecl `f` is renamed to funcDecl `proc_f`, any subsequent statement like `x := f(1)` will also have `f` substituted to `proc_f` via `substFvar`.

File: Strata/Languages/Core/StatementType.lean (hunk 12 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementType.lean:169]: Ooops looks like I forgot to update `Env`. I'll fix that and test it accordingly. I'm not relying on the type checker yet but I guess I should.

File: Strata/DL/Lambda/Factory.lean (hunk 13 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/Factory.lean]: I'm refactoring common parts like Func to `utils` to keep them separate.

File: Strata/Languages/Core/StatementEval.lean (hunk 11 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementEval.lean:423]: We probably can't share more than what we have with ProgramEval because ProgramEval does not require closure variable evaluation.

File: Strata/DL/Imperative/CmdSemantics.lean [hunk 14]
```diff
@@ -27,13 +27,54 @@ abbrev SemanticStore := P.Ident → Option P.Expr
...
 
 /--
 Evaluation relation of an Imperative command `Cmd`.
+The relation now includes an output evaluator `δ'` to support commands
+that modify the expression evaluator (like `funcDecl`).
 -/
 -- (FIXME) Change to a type class?
 abbrev EvalCmdParam (P : PureExpr) (Cmd : Type) :=
-  SemanticEval P → SemanticStore P → Cmd → SemanticStore P → Prop
+  SemanticEval P → SemanticStore P → Cmd → SemanticStore P → SemanticEval P → Prop
```
Comment (MikaelMayer) [inline Strata/DL/Imperative/CmdSemantics.lean]: Commands can now return a semantic evaluator (which contains functions)

File: Strata/DL/Imperative/StmtSemanticsSmallStep.lean (hunk 6 above)
Comment (joscoh) [reply Strata/DL/Imperative/StmtSemanticsSmallStep.lean]: I see that the function context is writtedn to, but where is the context used? By that I mean it has type `P.Ident → Option (PureFunc P)`. On which idents is this function called? It seems to me there needs to be some place, particularly when evaluating an expression, when one has to look up functions within the current function context, but I can't find it.

File: Strata/Transform/DetToNondetCorrect.lean [hunk 15]
```diff
@@ -29,121 +29,154 @@ open Imperative Core
...
+          -- We apply the IH with δ'' as the starting evaluator, which gives us
+          -- EvalNondetStmt δ'' σ'' (BlockToNondetStmt t) σ'
+          -- But we need EvalNondetStmt δ₀ σ'' (BlockToNondetStmt t) σ'
+          -- These are different unless δ'' = δ₀
+          -- For basic commands (cmd), δ'' = δ₀ by EvalCmd_eval_cst
+          -- For other statements, we need to show δ'' = δ₀ by induction
+          -- For funcDecl, δ'' ≠ δ₀, so the proof doesn't work in general
+          -- We leave this as sorry - the theorem is only valid for programs
+          -- where the evaluator doesn't change (no funcDecl in the middle of blocks)
+          sorry
```
Comment (MikaelMayer) [inline Strata/Transform/DetToNondetCorrect.lean]: For that one I'm not sure how to handle it. Any idea @joscoh ?

Comment (joscoh) [reply Strata/Transform/DetToNondetCorrect.lean]: Hmm, is the theorem statement true as written? The problem is `EvalNondetStmt.seq_sem`, which uses the same `\delta` when evaluating each nondeterministic statement in the block. However, the deterministic semantics may change `\delta` and thread that through. Could there ever be a case where (deterministic) statement `s` steps from to `s'` (with `\delta` to `\delta'`), and `s'` evaluates under `\delta'` but does not evaluate under `\delta`? We don't want to prove equality, as the comment implies, but we do want one of the following:
1. some sort of monotonicity result that rules out basically what I said above
2. a result that says something like: for any `\delta1`, `\delta2` with the same domain (or something), `s` evaluates under `\delta1` iff it evaluates under `\delta2` and then prove that evaluation results in `\delta` with the same domain

I'm still a bit confused on exactly where `\delta` is used. Does any property like this hold? If so, I can try to write the proof.

File: Strata/DL/Imperative/CmdSemantics.lean (hunk 14 above)
Comment (atomb) [reply Strata/DL/Imperative/CmdSemantics.lean]: I've been a bit dissatisfied with the complexity of the signatures for these evaluation relations already, feeling like they have too many parameters. This adds to that concern, and I'm wondering whether there's a way around it. I'd be happiest with the idea of putting closures in the store, though there are challenges with that, too.

File: Strata/DL/Imperative/CmdSemantics.lean [hunk 16]
```diff
@@ -27,13 +27,54 @@ abbrev SemanticStore := P.Ident → Option P.Expr
...
+    match σ id with
+    | some v => some (id, v)
+    | none => none)
+
+/--
+Apply closure capture to a function declaration by substituting current variable
+values into the function body and axioms. Variables that are function parameters
+are not substituted (they are bound, not free in the closure sense).
+-/
+def closureCapture [HasSubstFvar P] [HasVarsPure P P.Expr] [DecidableEq P.Ident] [HasFvar P]
```
Comment (atomb) [inline Strata/DL/Imperative/CmdSemantics.lean]: I don't see this function being called anywhere. Am I missing something?

File: Strata/DL/Imperative/StmtSemanticsSmallStep.lean (hunk 6 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/StmtSemanticsSmallStep.lean]: In the newest iteration, I discovered I could just update the SemanticEval, since it's supposed to be an expression evaluator, adding a function is supposed to update this semantic eval. That was the solution.

File: Strata/DL/Imperative/CmdSemantics.lean (hunk 14 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/CmdSemantics.lean]: I was dissatisfied too so I initially wanted to regroup the SemanticEval and SemanticStore but I realized in this PR it would complexify the code way more and take it even longer to review and merge, so I decided to go the route of just accepting a post-state semantic eval. I'll consider regrouping these parameters for the next time I will update the signature (which is likely before we add procedure declarations statements, we have a path to that)

File: Strata/Transform/DetToNondetCorrect.lean (hunk 15 above)
Comment (MikaelMayer) [reply Strata/Transform/DetToNondetCorrect.lean]: Ok, I think I figured out. We currently translate deterministic function declarations to assume true with the label "skip". This means that the following program
```
function g(): Bool { true }
assert g();
```
translate to the ill-formed program in nondet
```
assume true;
assert g();
```

There are three obvious solutions to the missing proof
- Require a predicate that the input program does not contain function declarations
- Add function declarations to nondeterministic statements
- Merge the deterministic and non-deterministic AST.

I think you @atomb  and I discussed how we should actually prefer the last option with a predicate that can choose which kind of AST we have. I explain what needs to be done in a separate issue: https://github.com/strata-org/Strata/issues/383
In the meantime let me add a predicate requiring that the input program does not contain function declarations for this theorem to hold so that we can prove the delta is the same.

Comment (joscoh) [reply Strata/Transform/DetToNondetCorrect.lean]: Makes sense, thanks!

File: Strata/DL/Imperative/CmdSemantics.lean (hunk 16 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/CmdSemantics.lean]: You are not missing something. I am. The semantics should make use of this function, I should have verified that. Let me fix that.

File: Strata/Languages/Core/StatementSemantics.lean [hunk 17]
```diff
@@ -181,12 +185,62 @@ def WellFormedCoreEvalTwoState (δ : CoreEval) (σ₀ σ : CoreStore) : Prop :=
...
+    match σ id with
+    | some v => some (id, v)
+    | none => none)
+
+/--
+Apply closure capture to a function declaration by substituting current variable
+values into the function body and axioms. Variables that are function parameters
+are not substituted (they are bound, not free in the closure sense).
+-/
+def closureCapture
```
Comment (MikaelMayer) [inline Strata/Languages/Core/StatementSemantics.lean:205]: Now `closureCapture` is used in `EvalPureFunc` as

```
def EvalPureFunc (φ : CoreEval → PureFunc Expression → CoreEval) : Imperative.ExtendEval Expression :=
  fun δ σ decl =>
    let capturedDecl := closureCapture σ decl
    φ δ capturedDecl
```
We only require the semantics to provide a way to update the current function definitions with the closure we build.
I haven't seen an instantiation of pi however, so I'm not going further for phi either.

File: Strata/Transform/ProcedureInlining.lean [hunk 18]
```diff
@@ -19,73 +19,6 @@ namespace ProcedureInlining
 
 open Transform
 
-mutual
-def Block.substFvar (b : Block) (fr:Expression.Ident)
```
Comment (MikaelMayer) [inline Strata/Transform/ProcedureInlining.lean:23]: These definitions already existed in `Strata.Languages.Core.Statement`:
https://github.com/strata-org/Strata/blob/36b1457517d391197faf1f770ca2e75193a75a17/Strata/Languages/Core/Statement.lean#L314

File: Strata/Languages/Core/StatementSemantics.lean [hunk 19]
```diff
@@ -181,12 +185,62 @@ def WellFormedCoreEvalTwoState (δ : CoreEval) (σ₀ σ : CoreStore) : Prop :=
...
+
+Takes a parameter `φ` that specifies how to extend the evaluator with a captured
+closure (without the store, since closure capture is handled here).
+-/
+def EvalPureFunc (φ : CoreEval → PureFunc Expression → CoreEval) : Imperative.ExtendEval Expression :=
+  fun δ σ decl =>
+    let capturedDecl := closureCapture σ decl
+    φ δ capturedDecl
+
+inductive EvalCommand (π : String → Option Procedure) (φ : CoreEval → PureFunc Expression → CoreEval) : CoreEval →
```
Comment (MikaelMayer) [inline Strata/Languages/Core/StatementSemantics.lean:238]: I realized that I had to update EvalCommand to support φ (φ helps augmenting the eval context with named functions)  because EvalCommand give semantics to call commands, which can invoke a procedure, which can themselves augment the (local) set of functions.

File: Strata/DL/Imperative/SemanticsProps.lean [hunk 20]
```diff
@@ -9,19 +9,34 @@ import Strata.DL.Imperative.StmtSemantics
 
 namespace Imperative
 
+/-- All basic commands preserve the evaluator (commands don't output δ') -/
+theorem EvalCmd_eval_cst
```
Comment (joscoh) [inline Strata/DL/Imperative/SemanticsProps.lean]: Why do we need this theorem?

File: Strata/DL/Imperative/Stmt.lean [hunk 21]
```diff
@@ -148,6 +154,34 @@ end
...
 
+/-! ### NoFuncDecl
+
+Predicate stating that a statement or block contains no function declarations.
+This is useful when converting to non-deterministic statements which don't have function declarations.
+-/
+
+mutual
+/-- Returns true if the statement contains no function declarations. -/
+def Stmt.noFuncDecl (s : Stmt P C) : Bool :=
```
Comment (joscoh) [inline Strata/DL/Imperative/Stmt.lean:165]: As an aside, it would be nice to have a generic `Stmt.fold` function that lets us avoid writing the same thing over and over again. I will try to add this in a future PR.

File: Strata/DL/Imperative/Stmt.lean [hunk 22]
```diff
@@ -159,6 +193,14 @@ def Stmt.getVars [HasVarsPure P P.Expr] [HasVarsPure P C] (s : Stmt P C) : List
...
   | .loop _ _ _ bss _ => Block.getVars bss
   | .goto _ _  => []
+  | .funcDecl decl _ =>
+    -- Get free variables from function body, excluding formal parameters
+    match decl.body with
+    | none => []
+    | some body =>
+      let bodyVars := HasVarsPure.getVars body
+      let formals := decl.inputs.map (·.1)
+      bodyVars.filter (fun v => formals.all (fun f => ¬(P.EqIdent v f).decide))
```
Comment (joscoh) [inline Strata/DL/Imperative/Stmt.lean:203]: Does `v == f` not work here?

File: Strata/DL/Lambda/Factory.lean [hunk 23]
```diff
@@ -166,6 +166,20 @@ def LFunc.type [DecidableEq T.IDMeta] (f : (LFunc T)) : Except Format LTy := do
...
 
+omit [Inhabited T.Metadata] [ToFormat T.IDMeta] in
+theorem LFunc.type_inputs_nodup [DecidableEq T.IDMeta] (f : LFunc T) (ty : LTy) :
+    f.type = .ok ty → f.inputs.keys.Nodup := by
+  intro h
+  simp only [LFunc.type, bind, Except.bind] at h
+  split at h <;> try contradiction
+  rename_i h_nodup
+  simp only [Bool.not_eq_true] at h_nodup
+  have : decide f.inputs.keys.Nodup = true := by
```
Comment (joscoh) [inline Strata/DL/Lambda/Factory.lean]: This proof seems a bit convoluted. Is there a way to use `decide` more directly?

File: Strata/DL/Imperative/CmdSemantics.lean (hunk 5 above)
Comment (aqjune-aws) [reply Strata/DL/Imperative/CmdSemantics.lean]: It is supposed to be removed, yeah, but at least https://github.com/strata-org/Strata/pull/390 didn't do that yet. let me handle that.

File: Strata/DL/Util/Func.lean [hunk 24]
```diff
@@ -0,0 +1,154 @@
...
+identifiers and expressions, allowing this structure to work with different types.
+-/
+structure FuncWF {IdentT ExprT TyT MetadataT : Type}
+    (getName : IdentT → String) (getVarNames : ExprT → List String)
+    (f : Func IdentT ExprT TyT MetadataT) where
+  -- No args have same name.
+  arg_nodup:
+    List.Nodup (f.inputs.map (getName ·.1))
+  -- Free variables of body must be arguments.
+  body_freevars:
```
Comment (joscoh) [inline Strata/DL/Util/Func.lean:109]: Can you please update this with https://github.com/strata-org/Strata/pull/386

File: Strata/Transform/ProcedureInlining.lean (hunk 18 above)
Comment (aqjune-aws) [reply Strata/Transform/ProcedureInlining.lean:23]: Right, I wonder how they were introduced in both places. :/

File: Strata/DL/Util/Func.lean [hunk 25]
```diff
@@ -0,0 +1,154 @@
...
+    ∀ b, f.body = .some b →
+      (∀ fv, fv ∈ getVarNames b →
+        ∃ arg, List.Mem arg f.inputs ∧ fv = getName arg.1)
```
Comment (aqjune-aws) [inline Strata/DL/Util/Func.lean]: https://github.com/strata-org/Strata/pull/386 from Josh will have introduced a slightly optimized version of `body_freevars`. :)

File: Strata/Languages/Core/StatementSemanticsProps.lean [hunk 26]
```diff
@@ -1310,68 +1312,64 @@ theorem ReadValuesSubstStores :
...
+  induction ss₁ generalizing σ σ' δ δ' with
+  | nil =>
+    have ⟨Hσ, Hδ⟩ := EvalBlockEmpty Heval1
+    simp [Hσ, Hδ]
+    assumption
+  | cons h t ih =>
+    cases Heval1 with
+    | stmts_some_sem Heval Heval' =>
+    next σ₁ δ₁ =>
+    constructor
```
Comment (joscoh) [inline Strata/Languages/Core/StatementSemanticsProps.lean:1370]: Can `grind` not solve these cases?

File: Strata/DL/Lambda/Factory.lean
Comment (aqjune-aws) [inline Strata/DL/Lambda/Factory.lean]: Do we need this old `LFuncWF` now? Or can it be removed?
Or if it was after discussion that this LFuncWF was chosen to be alive for a while, thanks - I can remove this.

File: Strata/Languages/Core/StatementType.lean (hunk 12 above)
Comment (joscoh) [reply Strata/Languages/Core/StatementType.lean:169]: +1 to Shilpi's comment. This seems like it should be a separate function called here and in `ProgramType.lean`.

File: Strata/DL/Imperative/StmtSemanticsSmallStep.lean [hunk 27]
```diff
@@ -22,96 +23,108 @@ Configuration for small-step semantics, representing the current execution
...
-      (.terminal σ)
+    StepStmt P EvalCmd
+      (.stmt (.loop g m inv body _) σ δ)
+      (.terminal σ δ)
 
   /- Goto: not implemented, because we plan to remove it. -/
 
+  /-- A function declaration extends the evaluator with the new function. -/
+  | step_funcDecl [HasSubstFvar P] [HasVarsPure P P.Expr]
+    (extendEval : SemanticEval P → SemanticStore P → PureFunc P → SemanticEval P) :
```
Comment (aqjune-aws) [inline Strata/DL/Imperative/StmtSemanticsSmallStep.lean]: I think we will want to enforce the same `extendEval` function in the semantics. It seems the current definition allows using different `extendEval` for each `step_funcDecl` (like the `cons` constructor in List, e.g., `cons 1 (cons 2 (...))`

File: Strata/Transform/DetToNondetCorrect.lean [hunk 28]
```diff
@@ -13,63 +13,168 @@ import Strata.Transform.DetToNondet
...
+    cases Heval
+  | goto_case label md =>
+    intros Hno Heval
+    cases Heval
+  | funcDecl_case decl md =>
+    intros Hno Heval
+    simp [Stmt.noFuncDecl] at Hno
+
+/-- When a block has no function declarations, evaluating it preserves the evaluator. -/
+theorem EvalBlock_noFuncDecl_preserves_δ
```
Comment (joscoh) [inline Strata/Transform/DetToNondetCorrect.lean:91]: For a bunch of these theorems, the proof consist almost entirely of instantiating hypotheses and some case analysis. I had thought `grind` would be able to handle a bunch of this.

File: Strata/DL/Imperative/SemanticsProps.lean (hunk 20 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/SemanticsProps.lean]: Oh I see it came from a previous iteration where EvalCmd was actually returning a new delta, and I was proving that the delta was unchanged, until I realized that I could make the separation between commands and statements in that commands change the store but not the evaluator, and statements can change both.
So this theorem was simplified to the point there it's no longer useful anymore. Thanks for pointing out.

File: Strata/DL/Imperative/Stmt.lean (hunk 22 above)
Comment (MikaelMayer) [reply Strata/DL/Imperative/Stmt.lean:203]: No it does not, neither do `v = f`

File: Strata/DL/Lambda/Factory.lean (hunk 23 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/Factory.lean]: That I don't know. Replacing the body by "decide", "simp" or "simp_all" does not work. Do you have any idea?

File: Strata/Languages/Core/StatementSemanticsProps.lean (hunk 26 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementSemanticsProps.lean:1370]: I would prefer to avoid grind if we can have an explicit proof, because based on my little experience grind proofs are harder to maintain. At what granularity would you like to see grind?

File: Strata/DL/Util/Func.lean (hunk 24 above)
Comment (MikaelMayer) [reply Strata/DL/Util/Func.lean:109]: Good idea, I hadn't seen that refactoring.

File: Strata/Languages/Core/StatementType.lean [hunk 29]
```diff
@@ -76,38 +77,38 @@ def typeCheckCmd (C: LContext CoreLParams) (Env : TEnv Visibility) (P : Program)
...
 
 def typeCheckAux (C: LContext CoreLParams) (Env : TEnv Visibility) (P : Program) (op : Option Procedure) (ss : List Statement) :
-  Except DiagnosticModel (List Statement × TEnv Visibility) :=
-  go Env ss []
+  Except DiagnosticModel (List Statement × TEnv Visibility × LContext CoreLParams) :=
+  go C Env ss []
 where
-  go (Env : TEnv Visibility) (ss : List Statement) (acc : List Statement) :
-    Except DiagnosticModel (List Statement × TEnv Visibility) :=
+  go (C : LContext CoreLParams) (Env : TEnv Visibility) (ss : List Statement) (acc : List Statement) :
```
Comment (aqjune-aws) [inline Strata/Languages/Core/StatementType.lean:83]: It seems this change will need some updates to the description of `LContext` which introduces `LContext` as:
```
Context data that does not change throughout type checking: a
factory of user-specified functions and data structures for ensuring unique
names of types and functions.
Invariant: all functions defined in `TypeFactory.genFactory`
for `datatypes` should be in `functions`.
```
LangDefDoc.lean also mentions this.
If this is necessary, let's update the comment and doc above to mention that it can sometimes change.

File: Strata/Languages/Core/StatementType.lean [hunk 30]
```diff
@@ -207,6 +241,13 @@ def Statement.subst (S : Subst) (s : Statement) : Statement :=
   | .loop guard m i bss md =>
     .loop (guard.applySubst S) (substOptionExpr S m) (substOptionExpr S i) (go S bss []) md
   | .goto _ _ => s
+  | .funcDecl decl md =>
+    let decl' := { decl with
+      inputs := decl.inputs.map (fun (id, ty) => (id, Lambda.LTy.subst S ty)),
+      output := Lambda.LTy.subst S decl.output,
+      body := decl.body.map (·.applySubst S),
+      axioms := decl.axioms.map (·.applySubst S) }
```
Comment (aqjune-aws) [inline Strata/Languages/Core/StatementType.lean:231]: Does substitution still hold if there was an argument of a same name in inputs?
I think it makes sense to comment what kind of property holds after substitution (e.g., the input statement and output statement is alpha-equivalent, or Statement.subst breaks alpha-equivalence due to the funcDecl case).

File: Strata/Languages/Core/WF.lean [hunk 31]
```diff
@@ -70,6 +71,11 @@ structure WFloopProp    (Cmd : Type) (p : Program) (guard : Expression.Expr) (me
 
 structure WFgotoProp  (p : Program) (label : String) : Prop where
 
+/-- Well-formedness for local function declarations.
+    Checks that function parameter names are unique. -/
+structure WFfuncDeclProp (p : Program) (decl : Imperative.PureFunc Expression) : Prop where
+  arg_nodup : decl.inputs.keys.Nodup
```
Comment (aqjune-aws) [inline Strata/Languages/Core/WF.lean:86]: What is the relation between `WFfuncDeclProp` and the new `FuncWF` - can the latter be used instead of this?

File: Strata/DL/Util/Func.lean (hunk 25 above)
Comment (aqjune-aws) [reply Strata/DL/Util/Func.lean]: I saw there already has been a comment about this, closing.

File: Strata/Languages/Core/StatementType.lean (hunk 12 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementType.lean:169]: I don't think I can make a better function that can be called in both because both cases have middleware code to call their common function Function.typeCheck already.
Moreover, conversions of PureFunc to/from LFunc seem necessary. 

However, I can and will refactor this snippet of code elsewhere so that it's more readable.

File: Strata/Transform/DetToNondetCorrect.lean (hunk 28 above)
Comment (MikaelMayer) [reply Strata/Transform/DetToNondetCorrect.lean:91]: Every time I used grind in the past for things I thought were obvious, it did not work. So my first instinct is now to avoid grind and prefer proofs that are more maintainable.

File: Strata/DL/Lambda/Factory.lean
Comment (MikaelMayer) [reply Strata/DL/Lambda/Factory.lean]: Someone can remove it, I don't know if I can remove it. We have a lot of theorems and I don't know them.

File: Strata/Languages/Core/StatementType.lean (hunk 30 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/StatementType.lean:231]: I added the following comment:

Note: This substitutes type variables in types, not term variables. For `funcDecl`, the input identifiers (term-level names like `x`, `y`) are unchanged; only the types of those inputs are substituted. There is no name collision concern between type variables in `S` and term-level
input identifiers.

However, in StatementEval, I still have a minor issue which would have triggered the problem you imagined, I forgot to take into account parameter name shadowing. Parameter name shadowing will be a problem of the past once we have unique global identifiers, but in the meantime, I changed `captureFreevars` to ensure we don't replace input parameters.

File: Strata/Languages/Core/WF.lean (hunk 31 above)
Comment (MikaelMayer) [reply Strata/Languages/Core/WF.lean:86]: With your comment I discovered that a merge with main unfortunately replaced `LFunc` as an abbreviation back to `LFunc` as a structure independent from `Func`. I'm restoring that. And I'll make `WFfundDeclProp` an alias for `FuncWF` but for Imperative. Thanks for pointing out.

File: Strata/DL/Lambda/Factory.lean
Comment (aqjune-aws) [reply Strata/DL/Lambda/Factory.lean]: I will remove it then in a follow-up pull request. :)

File: Strata/DL/Lambda/Factory.lean (hunk 23 above)
Comment (joscoh) [reply Strata/DL/Lambda/Factory.lean]: I know you don't like `grind` but this is a possible alternative:
```
theorem LFunc.type_inputs_nodup [DecidableEq T.IDMeta] (f : LFunc T) (ty : LTy) :
    f.type = .ok ty → f.inputs.keys.Nodup := by
  intro h;
  simp only [LFunc.type, bind, Except.bind] at h
  grind
```
Another possibility:
```
theorem LFunc.type_inputs_nodup [DecidableEq T.IDMeta] (f : LFunc T) (ty : LTy) :
    f.type = .ok ty → f.inputs.keys.Nodup := by
  intro h;
  simp only [LFunc.type, bind, Except.bind] at h
  split at h <;> try contradiction
  simp_all
```

File: Strata/Languages/Core/WF.lean (hunk 31 above)
Comment (aqjune-aws) [reply Strata/Languages/Core/WF.lean:86]: Thanks for leaving a comment explaining relation between WFfuncDeclProp and FuncWF.

**Review by aqjune-aws — DISMISSED** [review]

File: Strata/DL/Imperative/SemanticsProps.lean (hunk 20 above)
Comment (joscoh) [reply Strata/DL/Imperative/SemanticsProps.lean]: Has this theorem been deleted?

**Review by joscoh — APPROVED** [review]
